US07700655B2
(1) 2-Amino-4-[(1,1-dimethyl)ethyl]thiazole
A mixture of 1-bromo-3,3-dimethyl-2-butanone (5.03 g, 28.1 mmol), thiourea (2.35 g, 30.9 mmol) and ethanol (30 mL) was refluxed for 1.5 hours. After cooling, the reaction mixture was poured into saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=2:1→1:1) to give the title compound (3.99 g, 90.9%) as an yellowish white powder.

reactant | 1-bromo-3,3-dimethyl-2-butanone | 28.1 mmol, 5.03 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | thiourea | 30.9 mmol, 2.35 g | NC(=S)N | CH4N2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-Amino-4-[(1,1-dimethyl)ethyl]thiazole | 3.99 g, 90.9% | NC=1SC=C(N1)C(C)(C)C | C7H12N2S
